US05403851
To a suspension of 0.70 g (4.7 mmol) of tryptamine in 2.5 mL of deionized water and 0.65 mL (4.7 mmol) of triethylamine in a round bottom flask, equipped with an argon inlet, was added 1.45 g (4.7 mmol) of 2-(4-methoxybenzyloxycarbonyloxyimino)-2-phenylacetonitrile (Moz-ON, Aldrich) in 5 mL of dioxane. During the first 5-10 minutes of stirring, the mixture became clear. This mixture was stirred for an additional 6 hours and diluted with 150 mL of saturated sodium chloride solution and extracted with 2×50 mL of ethyl acetate. The organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography using hexane:ethyl acetate (1:1) as an eluent to yield (81%) N-(p-Methoxybenzyloxycarbonyl)tryptamine as white solid, mp. 108°-109° C.

reactant | tryptamine | 4.7 mmol, 0.70 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | triethylamine | 4.7 mmol, 0.65 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(4-methoxybenzyloxycarbonyloxyimino)-2-phenylacetonitrile | 4.7 mmol, 1.45 g | COC1=CC=C(COC(=O)ON=C(C#N)C2=CC=CC=C2)C=C1 | C17H14N2O4
solvent | water | 2.5 mL | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | sodium chloride | 150 mL | [Cl-].[Na+]
product | N-(p-Methoxybenzyloxycarbonyl)tryptamine | 81% | COC1=CC=C(COC(=O)NCCC2=CNC3=CC=CC=C23)C=C1 | C19H20N2O3
